US06420418B1
A. 2-(1-Hydroxy-2-methyl-propyl)-2-tetrahydrofuroic Acid, Methyl Ester
This procedure was adapted from J. Chem. Soc. Perkin Trans. I. 1997, p 771. To a solution of N,N-diisopropylamine (1 mL, 7.69 mmol) in THBF (13 mL) at 0° C. as added n-butyllithium (4.2 mL, 8.46 mmol, 2 M in hexanes). After stirring the mixture for 30 min, it was cooled to −78° C. and 2-tetrahydrofuroic acid, methyl ester (1 g, 7.69 mmol) in THF (13 mL) was added. The reaction mixture was stirred at the same temperature for 15 min and then warmed to −40° C. Isobutyraldehyde (1 mL, 11.5 mmol) was added and stirring was continued for 1 hr and −40° C. The reaction mixture was then warmed to 0° C. and stirred for 1 hr before it was quenched HCl (30 mL, 1M). Extracted with 2×50 mL of ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate. Filtration and evaporation gave the crude product 2.63 g as an oil. Flash column chromatography on silica gel eluted with 15:85 ethyl acetate/hexane gave the desired product (688 mg, 44% yield).

reactant | N,N-diisopropylamine | 7.69 mmol, 1 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 8.46 mmol, 2 M, 4.2 mL | C(CCC)[Li]
reactant | 2-tetrahydrofuroic acid, methyl ester | 7.69 mmol, 1 g | O1C(CCC1)C(=O)OC | C6H10O3
reactant | Isobutyraldehyde | 11.5 mmol, 1 mL | C(C(C)C)=O | C4H8O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 2-(1-Hydroxy-2-methyl-propyl)-2-tetrahydrofuroic Acid, Methyl Ester | 688 mg, 44% yield | OC(C(C)C)C1(OCCC1)C(=O)OC | C10H18O4
